US06872718B1
N-(2,5-Dimethylphenyl)-2,2,2-trifluoroacetoamide
To a solution of 2,5-dimethylaniline (103 g, 0.849 mol) and triethylamine (103 g, 1.02 mol) in THF (500 ml) was added dropwise trifluoroacetic anhydride (132 ml, 0.935 mol) over 20 minutes with cooling on ice and the mixture was stirred for 10 minutes at the same temperature. Water was added to the reaction mixture and the mixture was extracted three times with diisopropyl ether. The organic layers were combined and washed with water (twice) and saturated brine, dried over magnesium sulfate, treated with an active charcoal, filtered and concentrated under reduced pressure to obtain 185 g of the title compound as a solid. Yield: 100%. An analytical sample was recrystallized from diisopropylether-hexane.

reactant | 2,5-dimethylaniline | 0.849 mol, 103 g | CC1=C(N)C=C(C=C1)C | C8H11N
reactant | triethylamine | 1.02 mol, 103 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.935 mol, 132 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Water | O | H2O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | N-(2,5-Dimethylphenyl)-2,2,2-trifluoroacetoamide | 185 g, Yield: 100% | CC1=C(C=C(C=C1)C)NC(C(F)(F)F)=O | C10H10F3NO
